US04840971
Synthesis of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-phenoxybenzyl ether (compound (1))
Under a nitrogen atmosphere, 132 mg of sodium hydride (60% oil dispersion) was added to 20 ml of dry DMF. A solution of 0.77 g of 2-(4-ethoxyphenyl)-3,3,3-triflouropropanol and 0.69 g of 3-phenoxybenzyl bromide in 5 ml of dry DMF was then added at room temperature, and the reaction solution was stirred at that temperature for 14 hours. Thereafter, the reaction mixture was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (25:1 ) mixture] to obtain 0.61 g of the desired compound.

reactant | sodium hydride | 132 mg | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-3,3,3-triflouropropanol | 0.77 g | C(C)OC1=CC=C(C=C1)C(CO)C(F)(F)F | C11H13F3O2
reactant | 3-phenoxybenzyl bromide | 0.69 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 3-phenoxybenzyl ether | 0.61 g | O(C1=CC=CC=C1)C=1C=C(COCC(C(F)(F)F)C2=CC=C(C=C2)OCC)C=CC1 | C24H23F3O3
